US09212348B2
Synthesis of ethyl 4-(4-hexylphenyl)-5-(methoxymethoxy)-1-(2-methyl-1-(p-tolyl)propan-2-yl)-1H-pyrazole-3-carboxylate
152 mg (0.329 mol) of ethyl 4-(4-hexylphenyl)-5-hydroxy-1-(2-methyl-1-(p-tolyl)propan-2-yl)-1H-pyrazole-3-carboxylate was dissolved in 1.6 mL of N,N-dimethylformamide, mixed with 26 mg (0.65 mmol) of 60 wt % sodium hydride (suspended in mineral oil) and 0.050 mL (0.66 mmol) of chloromethyl methyl ether under cooling with ice successively and stirred at room temperature for 3 hours. After completion of the reaction, the reaction mixture was diluted with diethyl ether and washed with 1 M hydrochloric acid, with saturated aqueous sodium hydrogen carbonate and with saturated aqueous sodium chloride successively. The organic layer was dried over anhydrous sodium sulfate and filtered, and the filtrate was concentrated under reduced pressure to give the desired product (crude yield 174 mg).

reactant | ethyl 4-(4-hexylphenyl)-5-hydroxy-1-(2-methyl-1-(p-tolyl)propan-2-yl)-1H-pyrazole-3-carboxylate | 0.329 mol, 152 mg | C(CCCCC)C1=CC=C(C=C1)C=1C(=NN(C1O)C(CC1=CC=C(C=C1)C)(C)C)C(=O)OCC | C29H38N2O3
reactant | sodium hydride | [H-].[Na+]
reactant | chloromethyl methyl ether | 0.66 mmol, 0.050 mL | COCCl | C2H5ClO
solvent | N,N-dimethylformamide | 1.6 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | ethyl 4-(4-hexylphenyl)-5-(methoxymethoxy)-1-(2-methyl-1-(p-tolyl)propan-2-yl)-1H-pyrazole-3-carboxylate | C(CCCCC)C1=CC=C(C=C1)C=1C(=NN(C1OCOC)C(CC1=CC=C(C=C1)C)(C)C)C(=O)OCC | C31H42N2O4
